### PR TITLE
[Merged by Bors] - feat: definition + basic results for chains / strings in root pairings

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Weights/Chain.lean [hunk 1]
```diff
@@ -40,6 +40,12 @@ We provide basic definitions and results to support `α`-chain techniques in thi
    `corootSpace α` of `H`, we may find an integral linear combination between
    `α` and any weight `χ` of a representation.
 
+## TODO
+
+Refactor the proof that the roots of a Lie algebra are a root system so that it does not need the
+theory here and then drop the relevant parts of the theory here and instead rely on the
+corresponding definitions for root pairings. [@Oliver clarify before commit]
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Weights/Chain.lean:47]: @ocfnash clarify before commit

:arrow_up: :wink:

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean [hunk 2]
```diff
@@ -248,21 +248,95 @@ lemma LinearIndepOn.pair_iff {i j : ι} (f : ι → M) (hij : i ≠ j) :
...
+  · suffices (a * d) • t = (b * c) • t by
+      by_contra ht; exact h (_root_.smul_left_injective S ht ‹_›)
+    calc (a * d) • t
+        = a • d • t := by rw [mul_smul]
+      _ = - (a • b • s) := by rw [eq_neg_iff_add_eq_zero, ← smul_add, add_comm, h₂, smul_zero]
+      _ = (b * c) • t := ?_
+    · rw [mul_smul, neg_eq_iff_add_eq_zero, smul_comm a b, ← smul_add, h₁, smul_zero]
+
+@[simp] lemma LinearIndependent.pair_add_smul_add_smul_iff (h : a * d ≠ b * c) :
+    LinearIndependent R ![a • x + b • y, c • x + d • y] ↔ LinearIndependent R ![x, y] := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean:317]: I think you can move the side condition into the RHS (with a slightly different proof), so that `simp` can always apply this.
```suggestion
@[simp] lemma LinearIndependent.pair_add_smul_add_smul_iff :
    LinearIndependent R ![a • x + b • y, c • x + d • y] ↔ LinearIndependent R ![x, y] \and (a * d ≠ b * c) := by
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
